datasets/10k_Mayr_OG.csv
SMILES Labelled
CC1=CC=CC(C)=C1[N+:61]#[C-:10].C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC1=CC=CC(C)=C1[N+:61]#[C:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34]([N:37](C)C)[CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1 10=20
"CC[C:10]#[C:11][N:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74].C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15>>CC[C:10](=[C:11]=[N+:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74])[CH:20](C)C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;12=11,12;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[C:61]([CH-:10][C:81](C1=CC=CC=C1)=[O:82])=[O:62]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:61](C)=[O:62])[C:81](C2=CC=CC=C2)=[O:82])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CCCC[NH2:10].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>CCCC[NH2+:10][CH:20]1CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+] 10=20;20,21=21"
"C1C[C:20](=[O:21])C1.Cl[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>Cl[C:64]1=[CH:63][CH:62]=[C:61]([O:10][C:20]2([O-:21])CCC2)[CH:72]=[CH:73]1 10=20;20,21=21"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.C[C:63]([O:62][B-:11]([H:10])([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64]>>C1C[CH:20]([H:10])[CH:21]=[C:22]([O-:23])C1.C[C:63]([O:62][B:11]([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64] 10,11=10,20;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10].[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>C[Si:63](C)(C)[CH2:62][CH+:11][CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[C:32]2=NO[N+]([O-])=[C:33]2[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)C[Si:11](C)(C)[H:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CC(C)(C)C[Si+:11](C)C.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"C[C:81]([C-:10]1CCC[O:72][C:61]1=[O:62])=[O:82].[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>C[C:81]([C:10]1([CH:20]2[CH:21]=[C:22]([O-:23])[O:43][C:31]2=[O:32])CCC[O:72][C:61]1=[O:62])=[O:82] 10=20;20,21=21,22;22,23=23"
"CCCC[Ge:11](CCCC)(CCCC)[H:10].C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CCCC[Ge+:11](CCCC)CCCC.C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;20,21=21,22;22,23=23"
"FC(F)(F)[S:71](/[CH:10]=[C:11]1\[CH:12]=[CH:13][C:14](=[C:15]=[N-:16])[CH:63]=[CH:62]1)(=[O:72])=[O:82].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH:20]([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([C:15]#[N:16])[CH:63]=[CH:62]1)[S:71](C(F)(F)F)(=[O:72])=[O:82])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"[N-:10]=[N+:61]=[N-:62].[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([N:10]=[N+:61]=[N-:62])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12.[CH2-:10][N+:61]#[N:62]>>N#C[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH2:10][N+:61]#[N:62])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>O=C(OCC1=CC=CC=C1)[NH+:12]=[C:11]([CH2:10][CH:20]([N:21]=[P:22](C1=CC=CC=C1)(C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[C:13]1=[CH:12][CH:11]=[CH:10][CH:61]=[CH:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[CH:12][C+:13](C)[CH:62]=[CH:61]2)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
